### PR TITLE
small_step definition

### PR DESCRIPTION
**Pull request by Daoortor**

### CODE REVIEW

File: LocalLang/Semantics.lean [hunk 1]
```diff
@@ -1,12 +1,41 @@
...
+  | fun_call : String → List ℕ → Ctx → List Expr → Ctx
+
+def Ctx.fill (e : Expr) : Ctx → Expr
+  | hole => e
+  | bin_op_lhs ctx op e' => Expr.binOp op (ctx.fill e) e'
+  | bin_op_rhs n op ctx => Expr.binOp op (.const n) (ctx.fill e)
+  | fun_call f es_left ctx es_right =>
+      Expr.funCall f ((.const ·) <$> es_left ++ [ctx.fill e] ++ es_right)
+
+abbrev VarContext := Std.HashMap String ℕ
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: To avoid overloading "context" yet again, perhaps this can better be called environment?

File: LocalLang/Semantics.lean [hunk 2]
```diff
@@ -1,12 +1,41 @@
...
 -- TODO: define
-inductive SmallStep (defs : Definitions) : Expr → Expr → Prop where
+inductive SmallStep (defs : Definitions) : (VarContext × Expr) → (VarContext × Expr) → Prop where
+  | var_step : V[x]? = some n →
+      SmallStep defs (V, (.var x)) (V, .const n)
+  | bin_op_step {op : BinOp} :
+      SmallStep defs (V, .binOp op (.const e₁) (.const e₂)) (V, .const <| op.eval e₁ e₂)
+  | ctx_step (ctx : Ctx) : SmallStep defs (V, e₁) (V, e₂) →
+      SmallStep defs (V, ctx.fill e₁) (V, ctx.fill e₂)
+  | fun_step {es : List ℕ} {func : Function} (Hf : defs.find? (·.name = f) = some func)
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: I think `(name, funcs) ∈ defs` would make more sense.

File: LocalLang/Semantics.lean [hunk 3]
```diff
@@ -1,12 +1,41 @@
...
+      (Hpn : func.parameters.length = es.length):
+      SmallStep defs
+        (V, .funCall f <| (.const ·) <$> es)
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: The precedence here is not clear, is there a cleaner way to put this?

File: LocalLang/Semantics.lean [hunk 4]
```diff
@@ -1,12 +1,41 @@
...
+        (.ofList <| V.toList ++ func.parameters.zip es, func.body)
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: This does not work.  Consider the following:

```
f x = g (x + 1) + x
g x = x
f 0
```

According to your small step semantics this evaluates to 2, but it should evaluate to 1.

File: LocalLang/Semantics.lean [hunk 5]
```diff
@@ -1,12 +1,80 @@
...
+  | bin_op_lhs ctx op e' => Expr.binOp op (ctx.fill e) e'
+  | bin_op_rhs n op ctx => Expr.binOp op (.const n) (ctx.fill e)
+  | letin x ctx e' => .letIn x (ctx.fill e) e'
+
+abbrev Env := Std.HashMap String ℕ
+
+-- .funCall f
+def letin_chain (vars : List (String × Expr)) (e : Expr) : Expr := match vars with
+  | .nil => e
+  | .cons (name, expr) vs => .letIn name expr <| letin_chain vs e
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: Instead of doing recursion directly, perhaps this could be a fold?  That way you can use library theorems about fold.

File: LocalLang/Semantics.lean [hunk 6]
```diff
@@ -1,12 +1,80 @@
...
 
 -- TODO: define
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: Remove TODO if it is done

File: LocalLang/Semantics.lean [hunk 7]
```diff
@@ -1,12 +1,80 @@
 import LocalLang.AST
+import LocalLang.Evaluator
+
+inductive Ctx : Type where
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: Please follow https://leanprover-community.github.io/contribute/naming.html#capitalization

File: LocalLang/Semantics.lean [hunk 8]
```diff
@@ -1,12 +1,80 @@
...
+      SmallStep defs V (.letIn name (.const val) e₁) (.letIn name (.const val) e₂)
+  | letin_const_step {name : String} {val n : ℕ} :
+      SmallStep defs V (.letIn name (.const val) (.const n)) (.const n)
+  | fun_step {ps : List String} {body : Expr} {es : List Expr}
+      (Hf : ⟨f, ps, body⟩ ∈ defs) (Hpn : ps.length = es.length) :
+      SmallStep defs V (.funCall f es) (letin_chain (ps.zip es) body)
 
 -- TODO: define
-inductive SmallSteps (defs : Definitions) : Expr → Expr → Prop where
+inductive SmallSteps (defs : Definitions) : Env → Expr → Expr → Prop where
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: Consider using ReflTransGen instead: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Relation.html#Relation.ReflTransGen

File: LocalLang/Semantics.lean [hunk 9]
```diff
@@ -1,12 +1,80 @@
 import LocalLang.AST
+import LocalLang.Evaluator
+
+inductive Ctx : Type where
+  | hole : Ctx
+  | bin_op_lhs : Ctx → BinOp → Expr → Ctx
+  | bin_op_rhs : ℕ → BinOp → Ctx → Ctx
+  | letin : String → Ctx → Expr → Ctx
```
Comment (jesyspa) [inline LocalLang/Semantics.lean]: You seem to be missing a case for stepping the body of the let.

**Review by jesyspa — CHANGES_REQUESTED** [review]
Looks good generally, but we should get the design of let-in steps right.

File: LocalLang/Semantics.lean
[the remark this answers is not in the document]
Comment (jesyspa) [reply LocalLang/Semantics.lean]: Yes, the one that's about proving the theorem.

File: LocalLang/Semantics.lean (hunk 7 above)
Comment (Daoortor) [reply LocalLang/Semantics.lean]: > Props and Types (or Sort) (inductive types, structures, classes) are in UpperCamelCase. There are some rare exceptions: some fields of structures are currently wrongly lower-cased (see the example for the class LT below).

Isn't this the case for Ctx?

File: lakefile.toml
Comment (jesyspa) [inline lakefile.toml]: Merge `main` please

**Review by jesyspa — CHANGES_REQUESTED** [review]
Looks pretty good, just some cleanup of examples left, mostly.

File: LocalLang/SemanticsExamples.lean [hunk 10]
```diff
@@ -0,0 +1,141 @@
...
+def step₆ : SmallStep defs ∅ e₆ e₇ :=
+  .ctxStep (.letInBody "x" 0 (.binOpLhs .hole .add (.var "x"))) ∅ .letinConstStep
+def step₇ : SmallStep defs ∅ e₇ e₈ :=
+  .ctxStep (.letInBody "x" 0 (.binOpRhs 1 .add .hole)) ∅ (.varStep (by simp [Ctx.updateEnv]))
+def step₈ : SmallStep defs ∅ e₈ e₉ :=
+  .ctxStep (.letInBody "x" 0 .hole) ∅ .binOpStep
+def step₉ : SmallStep defs ∅ e₉ (.const 1) :=
+  .letinConstStep
+
+infixr:100 " ~> " => SmallSteps defs ∅
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/SemanticsExamples.lean]: Doesn't calc require the steps and the goal to be with the same relation? I assume I cannot do something like
```
infixr:100 " ~> " => SmallStep defs ∅
infixr:100 " ~~> " => SmallSteps defs ∅

example steps : e1 ~~> e3 := by
  calc
    e1 ~> e2 := ...
    e2 ~> e3 := ...
```
even if I've proven something about the relationship between ~> and ~~>

[the remark this answers is not in the document]
Comment (jesyspa) [reply LocalLang/SemanticsExamples.lean]: You just need to have all the relevant Trans instances, which I suspect TransReflGen gives you.  Have you tried it?

File: LocalLang/SemanticsExamples.lean [hunk 11]
```diff
@@ -0,0 +1,116 @@
...
+    trans st₁ st₂ := Relation.ReflTransGen.trans
+      (Relation.ReflTransGen.single st₁) (Relation.ReflTransGen.single st₂)
+
+lemma step_in_context_implies_step_in_expr {e₁ e₂ e₁' e₂' : Expr} {V V' : Env}
+  (st : SmallStep defs V' e₁ e₂) (ctx : Ctx) (HEnv : V' = ctx.updateEnv V)
+  (He₁ : e₁' = ctx.fill e₁) (He₂ : e₂' = ctx.fill e₂) : SmallStep defs V e₁' e₂' := by
+  rw [HEnv] at st
+  let result := SmallStep.ctx_step ctx V st
+  rw [← He₁, ← He₂] at result
+  assumption
```
Comment (jesyspa) [inline LocalLang/SemanticsExamples.lean]: idem; perhaps a `SemanticsLemmas.lean` file would be useful?
